US08372841B2
Methyl 1-piperidin-1-ylcyclopropanecarboxylate
A mixture of methyl 1-aminocyclopropane-1-carboxylate (0.50 g, 4.35 mmoles), powdered potassium carbonate (2.40 g, 17.4 mmoles), and tetrabutylammonium bromide (0.140 g, 0.43 mmoles) in anhydrous acetonitrile (12 mL) was treated with 1,5-diiodopentane (1.70 g, 5.22 mmoles). The mixture was stirred for three days at 90° C. The mixture was cooled to room temperature and filtered. The filtrate was concentrated under reduced pressure. The residue was purified on an Alltech pre-packed silica gel column eluting with ethyl acetate to afford the title compound. MS(DCI) m/z 184 (M+H)+. Vaidyanathan, G.; Wilson, J. W. J. Org. Chem. 1989, 54, 1810-1815.

reactant | methyl 1-aminocyclopropane-1-carboxylate | 4.35 mmoles, 0.50 g | NC1(CC1)C(=O)OC | C5H9NO2
reactant | potassium carbonate | 17.4 mmoles, 2.40 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,5-diiodopentane | 5.22 mmoles, 1.70 g | ICCCCCI | C5H10I2
catalyst | tetrabutylammonium bromide | 0.43 mmoles, 0.140 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | acetonitrile | 12 mL | C(C)#N | C2H3N
product | Methyl 1-piperidin-1-ylcyclopropanecarboxylate | N1(CCCCC1)C1(CC1)C(=O)OC | C10H17NO2
